US08492582B2
4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-pyridine (48 mg), tripotassium phosphate (91 mg), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (1.6 mg), and palladium(II) acetate (1.8 mg) were added to a toluene (1.6 mL) suspension of tert-butyl 2-(6-chloropyridine-3-carboxamido)-4-phenylbenzoate (80 mg), followed by heating to reflux under a nitrogen atmosphere for 2 hours and 30 minutes. The reaction mixture was cooled to room temperature, and then 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (48 mg), tripotassium phosphate (91 mg), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (1.6 mg), and palladium(II) acetate (1.8 mg) were added thereto, followed by heating to reflux under a nitrogen atmosphere for 3 hours. The reaction mixture was cooled to room temperature, and then 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (1.6 mg) and palladium(II) acetate (1.8 mg) were added thereto, followed by heating to reflux under a nitrogen atmosphere for 2 hours. After cooling the reaction mixture to room temperature, the solvent was evaporated under reduced pressure, and chloroform and water were added to the residue. The insoluble substance was removed by filtration. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Fuji Silysia Chemical Ltd., PSQ100B (spherical), eluent: 90-15% hexane/ethyl acetate] to obtain 25 mg of tert-butyl 4-phenyl-2-(6-(pyridin-4-yl)pyridine-3-carboxamido)benzoate as a light yellow solid.

reactant | 4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-pyridine | 48 mg | CC1(OB(OC1(C)C)C1=CC=NC=C1)C | C11H16BNO2
reactant | tripotassium phosphate | 91 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tert-butyl 2-(6-chloropyridine-3-carboxamido)-4-phenylbenzoate | 80 mg | ClC1=CC=C(C=N1)C(=O)NC1=C(C(=O)OC(C)(C)C)C=CC(=C1)C1=CC=CC=C1 | C23H21ClN2O3
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 48 mg | CC1(OB(OC1(C)C)C1=CC=NC=C1)C | C11H16BNO2
reactant | tripotassium phosphate | 91 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | palladium(II) acetate | 1.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II) acetate | 1.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II) acetate | 1.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 1.6 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
catalyst | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 1.6 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
catalyst | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 1.6 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | toluene | 1.6 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-phenyl-2-(6-(pyridin-4-yl)pyridine-3-carboxamido)benzoate | 25 mg | C1(=CC=CC=C1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C=1C=NC(=CC1)C1=CC=NC=C1 | C28H25N3O3
